US05780669
Methyl 1-chloro-2-fluoro-1-cyclopropanecarboxylate
To 111 g of 2-chloro-2-methoxycarbonyl-1-cyclopropanecarboxylic acid was added 200 ml of water. Further, a solution of 24.87 g of sodium hydroxide dissolved in 300 ml of water was added thereto under ice-cooling and stirring to thereby give sodium salt. To this aqueous solution was added 52.25 g of sodium fluoride. Next, 1.3 equivalents, to carboxylic acid, of 10% (v/v) fluorine gas (diluted with nitrogen: 600 ml/min) was bubbled into this solution under ice-cooling and stirring. After the completion of the bubbling, the pH value of the reaction mixture was regulated to 8 to 9 by adding a 1N aqueous solution of sodium hydroxide. Then it was extracted with two 250 ml portions of dichloromethane. The organic layer was collected and dried over sodium sulfate. After evaporating the solvent under reduced pressure, 75 g of the title compound was obtained in the form of a crude product (cis:trans=3:2). After adjusting pH value of the separated aqueous layer to 2 to 3 with hydrochloric acid, it was extracted with two 100 ml portions of dichloromethane. Thus 23.1 g of the starting compound was recovered. After distilling the crude reaction product, the total yield of the cis- and trans-compounds was 76.4% (calculated by excluding the recovered starting compound). The analytical data of the title compound are as follows.

reactant | 2-chloro-2-methoxycarbonyl-1-cyclopropanecarboxylic acid | 111 g | ClC1(C(C1)C(=O)O)C(=O)OC | C6H7ClO4
reactant | sodium hydroxide | 24.87 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
reactant | sodium fluoride | 52.25 g | [F-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | Methyl 1-chloro-2-fluoro-1-cyclopropanecarboxylate | 75 g | ClC1(C(C1)F)C(=O)OC | C5H6ClFO2
